US07345034B2
172A. Dimethyl-(2,3,11a-trimethyoctadecahydro-2-aza-pentaleno[1,6a-a]phenanthren-9-yl)-amine
Conessine (50 mg, 0.14 mmol) was dissolved in 3 mL ethyl acetate and 10% Pd/C (20 mg) was added under inert atmosphere. The reaction mixture was hydrogenated under a hydrogen balloon for 24 hours. Reaction was not complete by TLC. The reaction mixture was filtered through diatomaceous earth, washed with ethyl acetate, and the filtrate was concentrated to give the crude product which was purified by silica gel column eluted with 0.3% ammonium hydroxide and 3% methanol in dichloromethane to give the desired product (15 mg, 30% yield).

reactant | Conessine | 0.14 mmol, 50 mg | C[C@H]1[C@H]2CC[C@@H]3[C@@]2(CC[C@H]4[C@H]3CC=C5[C@@]4(CC[C@@H](C5)N(C)C)C)CN1C | C24H40N2
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | Dimethyl-(2,3,11a-trimethyoctadecahydro-2-aza-pentaleno[1,6a-a]phenanthren-9-yl)-amine | 15 mg, 30% yield | CN(C1CCC2(C3CCC45C(C3CCC2C1)CCC5C(N(C4)C)C)C)C | C24H42N2
